US05719141
g) 5(S)-Tert-butoxycarbonylamino-4(S)-hydroxy-7(S)-methyl-2-methylene-9-triisopropylsilyloxynonanoic acid (N-butyl)amide
23.9 ml of a 1.6M n-butyllithium solution in hexane are added to a solution of 2.7 g of methacrylic acid butylamide in 80 ml of tetrahydrofuran at -75° C. under argon in the course of 30 min. The reaction mixture is then stirred at 0° C. for 30 min. After cooling to -75° C., 29.0 ml of a 1.0M chlorotriisopropyloxytitanium solution in hexane is added dropwise to the clear solution in the course of 30 min, the dark-coloured reaction mixture is stirred at -75° C. for a further 15 min, and a solution of 3.1 g of 2(S)-tert-butoxycarbonylamino-4(S)-methyl-6-triisopropylsilyloxyhexanal in 18 ml of tetrahydrofuran is then added in the course of 10 min. After the mixture has been stirred at -75° C. for 1 h, 19 ml of saturated ammonium chloride solution are added dropwise and, after warming to room temperature, the white suspension is extracted with diethyl ether. The organic phase is washed with 25 ml of water and 25 ml of saturated sodium chloride solution, dried over sodium sulfate and concentrated. The crude product is purified by means of FC over 400 g of silica gel (mobile phase gradient from D to B), the stereoisomers being separated. This gives the title compound (diastereomer I): Rf (A)=0.53; and diastereomer II: Rf (A)=0.45.

reactant | n-butyllithium | 1.6M | C(CCC)[Li]
reactant | methacrylic acid butylamide | 2.7 g | C(CCC)NC(C(=C)C)=O | C8H15NO
reactant | 2(S)-tert-butoxycarbonylamino-4(S)-methyl-6-triisopropylsilyloxyhexanal | 3.1 g | C(C)(C)(C)OC(=O)N[C@H](C=O)C[C@@H](CCO[Si](C(C)C)(C(C)C)C(C)C)C | C21H43NO4Si
reactant | ammonium chloride | 19 ml | [Cl-].[NH4+]
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 18 ml | O1CCCC1 | C4H8O
catalyst | chlorotriisopropyloxytitanium | 1.0M | Cl[Ti](OC(C)C)(OC(C)C)OC(C)C
product | 5(S)-Tert-butoxycarbonylamino-4(S)-hydroxy-7(S)-methyl-2-methylene-9-triisopropylsilyloxynonanoic acid (N-butyl)amide | C(CCC)NC(C(C[C@@H]([C@H](C[C@@H](CCO[Si](C(C)C)(C(C)C)C(C)C)C)NC(=O)OC(C)(C)C)O)=C)=O | C29H58N2O5Si
